US04720490
α-tritylthio-N-methylacetamide
To a solution of 26.55 g of sodium in 1800 ml of ethanol is added 288.8 g of tritylmercaptan. Then with ice-cooling a solution of 111.8 g of N-methylchloracetamide in 1000 ml of ethanol is added dropwise whereupon a grey-white precipitate is formed. After completion of the addition stirring is continued at room temperature for 45 minutes and the mixture then concentrated to half its volume. The precipitate is filtered, washed with isopropanol, water and again isopropanol and dried to give the title product. m.p. 200°-210°.

reactant | sodium | 26.55 g | [Na] | Na
reactant | tritylmercaptan | 288.8 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)S | C19H16S
reactant | N-methylchloracetamide | 111.8 g | CNC(CCl)=O | C3H6ClNO
solvent | ethanol | 1800 ml | C(C)O | C2H6O
solvent | ethanol | 1000 ml | C(C)O | C2H6O
product | α-tritylthio-N-methylacetamide | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)SCC(=O)NC | C22H21NOS
